US08685980B2
Following General Procedure B, 7-cyclopentyl-2-(5-formyl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (150 mg, 0.396 mmol) and 1-methanesulfonyl-piperazine (72 mg, 0.436 mmol) gave 7-cyclopentyl-2-[5-(4-methanesulfonyl-piperazin-1-ylmethyl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide as an off white solid (97 mg, 46%) [following SiO2 chromatography, eluting with 0-10% (2M NH3 in MeOH)/DCM].

reactant | 7-cyclopentyl-2-(5-formyl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.396 mmol, 150 mg | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)C=O)N1C1CCCC1)C | C20H22N6O2
reactant | 1-methanesulfonyl-piperazine | 0.436 mmol, 72 mg | CS(=O)(=O)N1CCNCC1 | C5H12N2O2S
product | 7-cyclopentyl-2-[5-(4-methanesulfonyl-piperazin-1-ylmethyl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)CN2CCN(CC2)S(=O)(=O)C)N1C1CCCC1)C | C25H34N8O3S
